US08754114B2
N-(2-Hydroxypropyl)-2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}-1H-pyrazol-1-yl)propanamide
This compound was prepared by using procedures analogous to those described for the synthesis of Example 54, Step 3 starting from 2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}-1H-pyrazol-1-yl)propanoic acid and 1-amino-2-propanol. LCMS (M+H)+: m/z=531.2.

reactant | 2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}-1H-pyrazol-1-yl)propanoic acid | FC(CNC(=O)NC=1C=C(C=CC1)C1=CN=C2N1N=CC(=C2)C=2C=NN(C2)C(C(=O)O)C)(F)F | C21H18F3N7O3
reactant | 1-amino-2-propanol | NCC(C)O | C3H9NO
product | N-(2-Hydroxypropyl)-2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}-1H-pyrazol-1-yl)propanamide | OC(CNC(C(C)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C2=CC(=CC=C2)NC(=O)NCC(F)(F)F)=O)C | C24H25F3N8O3
